US04330555
A solution of 58.9 g of 3-hydroxy-3-(o-tolyl)-hexanoic acid methyl ester, 1.1 g p-toluene sulphonic acid and 2.5 ml concentrated H2SO4 in 400 ml toluene is boiled in a water separator under reflux. The resultant reaction solution is concentrated, taken up in CHCl3, washed with NaHCO3 solution, H2O and then NaCl solution and then concentrated. The crude product in CHCl3 is filtered through silica gel and the filtrate concentrated. The product containing 3-(o-tolyl)-hex-2-and/or 3-enoic acid methyl ester is taken up in 400 ml methanol and hydrogenated in the presence of 2.1 g 10% (by weight) Palladium on charcoal at 20° and at 1.1 atmospheres to yield 3-o-tolyl-hexanoic acid methyl ester, which is further worked up as such.

reactant | 3-hydroxy-3-(o-tolyl)-hexanoic acid methyl ester | 58.9 g | COC(CC(CCC)(C1=C(C=CC=C1)C)O)=O | C14H20O3
reactant | p-toluene sulphonic acid | 1.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | H2SO4 | 2.5 ml | OS(=O)(=O)O | H2O4S
reactant | water | O | H2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 3-o-tolyl-hexanoic acid methyl ester | COC(CC(CCC)C1=C(C=CC=C1)C)=O | C14H20O2
